US07790709B2
Preparation of (E)-3-(6-Amino-pyridin-3-yl)-N-methyl-N-thieno[3,2-c]pyridin-2-ylmethyl-acrylamide
EDC hydrochloride (118 mg, 0.62 mmol) was added to a solution of methyl-thieno[3,2-c]pyridine-2-ylmethyl-amine (100 mg, 0.56 mmol), (−3-(6-amino-pyridin-3-yl)acrylic acid (101 mg, 0.62 mmol), HOBt.H2O (83 mg, 0.62 mmol) and triethylamine (235 μL, 1.68 mmol) in anhydrous DMF (5 mL). The mixture was stirred at room temperature overnight then diluted with H2O (10 mL) and extracted with CH2Cl2 (3×50 mL). The combined organic fractions were dried over MgSO4, filtered and evaporated to give a yellow residue which was subjected to flash chromatography on silica gel (10% MeOH: CH2Cl2) to yield the title compound (61.0%). 1H-NMR (300 MHz, CDCl3) δ 9.04 (s, 1H), 8.45 (d, J=5.3 Hz, 1H), 8.26 (s, 1H), 7.76-7.67 (m, 3H), 7.32 (d, J=15.0 Hz, 1H), 6.76 (d, J=15.2 Hz, 1H), 6.53 (d, J=8.3 Hz, 1H), 4.95 (s, 2H), 4.76 (br s, 2H), 3.22 (s, 3M); MS (ES) m/e 325.1 (M+H)+.

reactant | EDC hydrochloride | 0.62 mmol, 118 mg | CCN=C=NCCCN(C)C.Cl
reactant | methyl-thieno[3,2-c]pyridine-2-ylmethyl-amine | 0.56 mmol, 100 mg | CNCC1=CC=2C=NC=CC2S1 | C9H10N2S
reactant | 3-(6-amino-pyridin-3-yl)acrylic acid | 0.62 mmol, 101 mg | NC1=CC=C(C=N1)C=CC(=O)O | C8H8N2O2
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 1.68 mmol, 235 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | H2O | 10 mL | O | H2O
solvent | H2O | 0.62 mmol, 83 mg | O | H2O
product | (E)-3-(6-Amino-pyridin-3-yl)-N-methyl-N-thieno[3,2-c]pyridin-2-ylmethyl-acrylamide | 61.0% | NC1=CC=C(C=N1)/C=C/C(=O)N(CC1=CC=2C=NC=CC2S1)C | C17H16N4OS
